US04937246
To a mixture of indole-5-carboxylic acid (1 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (2.2 g), triethylamine (1.9 g) and N,N-dimethylformamide (20 ml) is added dropwise under ice-cooling diethyl cyanophosphonate (1.5 ml), followed by stirring for 30 minutes under ice-cooling and for further one hour at room temperature. After addition of water (200 ml), ethyl acetate (200 ml) and hexane (50 ml), the reaction mixture is extracted with ethyl acetate. The extract is washed with water, dried, and concentrated. The residue is purified by means of a silica gel column chromatography(hexane:acetone=1:1) to give 1-(5-indolylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine (1.9 g) as a colorless oily product. This product (0.3 g) is led to its fumarate in ethyl ether to obtain colorless powder (0.25 g).

reactant | indole-5-carboxylic acid | 1 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 2.2 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 1.9 g | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.5 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(5-indolylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine | 1.9 g | N1C=CC2=CC(=CC=C12)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | C23H27N3O4
